US08048909B2
2-Bromo-1-(3-thienyl)ethanone
To a solution of 3-acetylthiophene (3.73 g) in diethyl ether (60 mL) was added aluminum chloride (386 mg), and the mixture was stirred for 5 min. Bromine (1.55 mL) was slowly added at room temperature to this mixture, and the mixture was further stirred for 2 hr. Aqueous sodium carbonate solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. The extract was dried over anhydrous sodium sulfate, filtrated, and concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether to give the title compound as white crystals (yield 3.93 g, 65%).

reactant | 3-acetylthiophene | 3.73 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | aluminum chloride | 386 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Bromine | 1.55 mL | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 2-Bromo-1-(3-thienyl)ethanone | yield 3.93 g, 65% | BrCC(=O)C1=CSC=C1 | C6H5BrOS
